US09376449B2
To a mixture of tert-butyl {2-[5-bromo-7-(methylcarbamoyl)-1,6-dihydro-2H-furo[3,2-e]indol-8-yl]ethyl}carbamate (569 mg), triethylamine (0.724 mL), tetrahydrofuran (10.0 mL), and ethanol (30.0 mL) was added 10% palladium on carbon (50% water included, 284 mg) under an argon gas flow, followed by stirring at room temperature overnight under a hydrogen atmosphere (3.2 kgf/cm2). The catalyst was separated by filtration and the filtrate was concentrated under reduced pressure to obtain tert-butyl {2-[7-(methylcarbamoyl)-1,6-dihydro-2H-furo[3,2-e]indol-8-yl]ethyl}carbamate (434 mg) as a pale yellow solid.

reactant | tert-butyl {2-[5-bromo-7-(methylcarbamoyl)-1,6-dihydro-2H-furo[3,2-e]indol-8-yl]ethyl}carbamate | 569 mg | BrC=1C=C2C(=C3C(=C(NC13)C(NC)=O)CCNC(OC(C)(C)C)=O)CCO2 | C19H24BrN3O4
reactant | triethylamine | 0.724 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 284 mg | [Pd] | Pd
solvent | ethanol | 30.0 mL | C(C)O | C2H6O
product | tert-butyl {2-[7-(methylcarbamoyl)-1,6-dihydro-2H-furo[3,2-e]indol-8-yl]ethyl}carbamate | 434 mg | CNC(=O)C=1NC2=CC=C3C(=C2C1CCNC(OC(C)(C)C)=O)CCO3 | C19H25N3O4
